*.SUBCKT 2SC5006 7 8 9 B C E
.SUBCKT 2SC5006  8 7 9 ; C B E
Ccb 2 5 58f
Cce 2 6 87f
Cbe 7 9 0.67f
Cb 1 2 180f
Ce 2 3 180f
Lb 5 7 1.09n
Lc 2 8 0.79n
Le 6 9 0.99n
Lb2 1 5 0.004n
Le2 3 6 0.004n
Qnpn 2 1 3 q2SC5006_v111_M
.MODEL q2SC5006_v111_M NPN
+(IS=616e-18 BF=161 NF=0.99 VAF=50.0
+ IKF=1.5 BR=14.4 NR=0.99 VAR=2.4
+ IKR=0.32 ISE=38.2e-14 NE=2.19 ISC=80e-17
+ NC=1.0 RB=4.37 IRB=759e-6 RBM=2.23
+ RE=0.4 RC=5.0 CJE=2.21p VJE=0.954
+ MJE=0.408 CJC=1p VJC=0.667 MJC=0.408
+ XCJC=0.8
+ FC=0.50 TF=20p XTF=1e-3 VTF=0.668
+ITF=9.7 TR=0 PTF=40 EG=1.11
+ XTI=3.0 XTB=0)
.ENDS 2SC5006