* Z:\home\dud\Desktop\ElectronicBasic\Duza Lib\examples\Bordodynov\Alternative_a_transformer\FerriteChan.asc
I1 0 N001 SINE(0 5m 5k 0 -500)
XU2 0 P001 H B CoreChan Area=24u Len=32m Hc=18 Br=0.1 BS=0.4
XU1 N001 0 P001 0 Winding N={N1} Rs=1m Tau=50n Tau2=50n
C1 N001 0 20p
.tran 5m uic
.param  N1=100
.option  plotwinsize=0
.param Area1=24u len1=32m
* SINE(0 5m  5k 0 -500)
* Scheme By Bordodynov
.lib Core.lib
.backanno
.end
