* Z:\home\dud\Desktop\ElectronicBasic\Duza Lib\examples\Bordodynov\Alternative_a_transformer\B_H_steel_.asc
XU1 N003 0 P001 0 Winding N={N1} Rs=1m Tau=50n Tau2=50n
I1 0 N003 PWL(0 1 1m 0 2m -0.5)
XU2 0 P001 N001 N002 CORE Area=24u Len=32m ms=81.82k a=8.067 k=18.57 c=0.24753
.tran 2m
.param  N1=100
.option  plotwinsize=0
* Bulk magnetization curve (russian steel)
* Scheme By Bordodynov
.lib Core.lib
.backanno
.end
